US05324747
To a solution of 4.6 g of 3-nitro-5-(octadecyloxy)phenylcarbamic acid dimethylethyl ester in 100 ml of methylene chloride stirred at room temperature was added 20 ml of trifluoroacetic acid. The reaction mixture was kept at room temperature for 3.5 hours and the solvent was then removed at reduced pressure. The residue was treated with water and the product was filtered and recrystallized from ethyl acetate-hexane to give 3.6 g (97% yield, mp 106°-108°) of 3-nitro-5-(octadecyloxy)benzenamine.

reactant | 3-nitro-5-(octadecyloxy)phenylcarbamic acid dimethylethyl ester | 4.6 g | CC(C)(C)OC(NC1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)[N+](=O)[O-])=O | C29H50N2O5
reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 3-nitro-5-(octadecyloxy)benzenamine | 3.6 g, 97% yield | [N+](=O)([O-])C=1C=C(C=C(C1)OCCCCCCCCCCCCCCCCCC)N | C24H42N2O3
